US05508420
25 g (0.14 mol) of 4-methyl-5-trifluoromethyl-2,4-dihydro-3H-1,2,4-triazole-3-thione are dissolved in 250 ml of 2.5-molar sodium hydroxide solution, and 46.5 g of a 35% strength hydrogen peroxide solution (0.48 mol of H2O2) are added in the course of 60 minutes at a reaction temperature of 40° C. to 45° C. (external cooling). The mixture is stirred for 6 hours at 40° C.; excess oxidant is then decomposed using sodium hydrogen sulphite, and the solution is acidified with 18-molar hydrochloric acid to a pH of 2. It is subsequently washed with ethyl acetate, and the aqueous solution is then concentrated under a water pump vacuum to approximately 200 ml. The solid obtained during cooling is isolated by filtration. 25 g (73% of theory) of sodium 4-methyl-5-trifluoromethyl-4H-1,2,4-triazole-3-sulphonate are obtained.

reactant | 4-methyl-5-trifluoromethyl-2,4-dihydro-3H-1,2,4-triazole-3-thione | 0.14 mol, 25 g | CN1C(NN=C1C(F)(F)F)=S | C4H4F3N3S
reactant | hydrogen peroxide | 0.48 mol | OO | H2O2
reactant | sodium hydrogen sulphite | S(=O)(O)[O-].[Na+]
reactant | hydrochloric acid | 18-molar | Cl | ClH
solvent | sodium hydroxide | 2.5-molar, 250 ml | [OH-].[Na+]
product | sodium 4-methyl-5-trifluoromethyl-4H-1,2,4-triazole-3-sulphonate | 25 g, 73% | CN1C(=NN=C1C(F)(F)F)S(=O)(=O)[O-].[Na+] | InChI=1S/C4H4F3N3O3S.Na/c1-10-2(4(5,6)7)8-9-3(10)14(11,12)13;/h1H3,(H,11,12,13);/q;+1/p-1
